US05459138
EXAMPLE 12: 3-METHYL-2,3-DIHYDRO-4H-PYRIDO[3,2-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 1 g of 3-aminopyridine-2-sulfonamide (Preparation 1) and 0.28 g of acetaldehyde in 10 cm3 of isopropanol to which 10 drops of ethyl acetate saturated with gaseous HCl have been added is brought to reflux for 1 to 2 hours. After cooling, a crystalline precipitate of the title compound is collected on a filter and washed with isopropanol. The 3-methyl-2,3-dihydro-4H-pyrido[3,2- e] [1,2,4]thiadiazine 1,1-dioxide is recrystallized from a CH3OH/H2O (1/4) mixture.

reactant | 3-aminopyridine-2-sulfonamide | 1 g | NC=1C(=NC=CC1)S(=O)(=O)N | C5H7N3O2S
reactant | acetaldehyde | 0.28 g | C(C)=O | C2H4O
reactant | HCl | Cl | ClH
solvent | isopropanol | 10 cm3 | C(C)(C)O | C3H8O
catalyst | ethyl acetate | 10 drops | C(C)(=O)OCC | C4H8O2
product | 3-METHYL-2,3-DIHYDRO-4H-PYRIDO[3,2-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | CC1NS(C2=C(N1)C=CC=N2)(=O)=O | C7H9N3O2S
